US08426402B2
S-3-(4-(4-(4-(4-(tert-butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-imidazole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxamido)-N,1-dimethyl-1H-pyrrole-2-carboxamido)propyl ethanethioate (227)
4-(4-(4-(4-(tert-butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-imidazole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxylic acid (256 mg, 0.42 mmol), NHS (60 mg, 0.52 mmol) and EDC (500 mg, 2.60 mmol) in 4 ml of DMA were stirred under Ar for 2 h, then S-3-(methylamino)propyl ethanethioate hydrogen chloride salt (76.5 mg, 0.42 mmol) was added and the mixture was kept stirring for 24 h, evaporated and purified on SiO2 chromatography eluted with THF/DCM (1:5 to 1:4) to afford 198 mg (64%) of the title compound. 1H NMR (DMSO) 10.21 (s, 1H), 10.09 (s, 1H), 10.06 (s, 1H), 9.08 (s, 1H), 7.76 (d, 1H, J=1.7 Hz), 7.52 (s, 1H), 7.28 (s, 1H), 7.21 (d, 1H, J=1.7 Hz), 6.97 (s, 1H), 6.87 (s, 1H), 3.98 (s, 1H), 3.86 (s, 3H), 3.75 (s, 3H), 3.73 (s, 3H), 3.66 (m, 2H), 2.85 (s, 3H), 2.60 (m, 2H), 2.01 (s, 3H), 1.45 (s, 9H); 13C NMR 173.31, 162.16, 160.05, 159.90, 157.20, 154.31, 137.88, 135.35, 124.56, 124.39, 123.51, 123.09, 121.76, 120.09, 119.83, 118.96, 115.32, 109.53, 105.58, 102.27, 79.32, 43.67, 38.13, 36.02, 35.81, 34.88, 31.84, 28.79, 28.26, 28.21, 27.01; MS m/z+ 759.2 (M+Na).

reactant | 4-(4-(4-(4-(tert-butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-imidazole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxylic acid | 0.42 mmol, 256 mg | C(C)(C)(C)OC(=O)NC=1C=C(N(C1)C)C(=O)NC=1N=C(N(C1)C)C(=O)NC=1C=C(N(C1)C)C(=O)NC=1C=C(N(C1)C)C(=O)O | C28H33N9O7
reactant | EDC | 2.60 mmol, 500 mg
reactant | S-3-(methylamino)propyl ethanethioate hydrogen chloride salt | 0.42 mmol, 76.5 mg | Cl.C(C)(SCCCNC)=O
reactant | DMA | 4 ml | CC(=O)N(C)C | C4H9NO
product | S-3-(4-(4-(4-(4-(tert-butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-imidazole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxamido)-N,1-dimethyl-1H-pyrrole-2-carboxamido)propyl ethanethioate | 198 mg, 64% | C(C)(SCCCN(C(=O)C=1N(C=C(C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C=C(N1)NC(=O)C=1N(C=C(C1)NC(=O)OC(C)(C)C)C)C)C)C)C)=O | C34H44N10O7S
